US09056862B2
To a solution of vanillin (500 mg), phenylboronic acid (1.60 g) and copper(II) acetate (712 mg) in methylene chloride (10 mL) were added molecular sieve 4A (750 mg) and triethylamine (665 mg), and the mixture was stirred at room temperature for 2 days. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (50 mL). The solution was washed successively with 0.5M aqueous hydrochloric acid solution, 1M aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give 3-methoxy-4-phenoxybenzaldehyde (440 mg) as a yellow solid.

reactant | vanillin | 500 mg | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | phenylboronic acid | 1.60 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 665 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 712 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-methoxy-4-phenoxybenzaldehyde | 440 mg | COC=1C=C(C=O)C=CC1OC1=CC=CC=C1 | C14H12O3
